US05612371
A) Preparation of (E)-2-methyl-3-(4-phenoxyphenyl)propenoic acid
The procedure is performed in an analogous manner to that described in Example 17 (step A), starting from 4-phenoxybenzaldehyde and using 5 equivalents of propionic anhydride. Yield: 68% IR (nujol): 1665 cm-1 m.p. 133° C. 1H NMR (CDCl3 /TMS): 11.95 (broad s, 1H); 7.80 (s, 1H); 7.60 to 6.85 (m, 9H); 2.15 (s, 3H).

reactant | 4-phenoxybenzaldehyde | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | propionic anhydride | 5 equivalents | C(CC)(=O)OC(CC)=O | C6H10O3
product | (E)-2-methyl-3-(4-phenoxyphenyl)propenoic acid | Yield: 68% | C/C(/C(=O)O)=C\C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H14O3
